US04112112
To 9-ethoxycarbonylamino-11-(3-dimethylaminopropylidene)-11H-pyrrolo[2,1-b][3]benzazepine (2.80 g.) in 100 ml. EtOH is added 10 ml. 2 N potassium hydroxide. Reflux is maintained for 42 hours. The volatiles are removed under vacuum and the residue is extracted with chloroform, washed with water, and dried over magnesium sulfate. Evaporation leaves a dark residue that is purified by chromatography on silica gel. Elution with 10% methanol in chloroform yields 9-amino-11-(3-dimethylaminopropylidene)-11H-pyrrolo[2,1-b][3]benzazepine.

reactant | 9-ethoxycarbonylamino-11-(3-dimethylaminopropylidene)-11H-pyrrolo[2,1-b][3]benzazepine | 2.80 g | C(C)OC(=O)NC1=CC2=C(C=CN3C(C2=CCCN(C)C)=CC=C3)C=C1 | C21H25N3O2
reactant | potassium hydroxide | 2 N | [OH-].[K+]
solvent | EtOH | CCO | C2H6O
product | 9-amino-11-(3-dimethylaminopropylidene)-11H-pyrrolo[2,1-b][3]benzazepine | NC1=CC2=C(C=CN3C(C2=CCCN(C)C)=CC=C3)C=C1 | C18H21N3
